US04782061
1-(Benzo[b]furan-7-yl)-4-isopropylpiperazine hydrochloride
0.36 Ml of acetic acid, 0.52 g of sodium acetate and 1.0 ml of acetone were added successively to a solution of 6.28 mmol (1.50 g) of 1-(benzo[b]furan-7-yl)-piperazine hydrochloride in 20 ml of methanol at room temperature. After stirring for 30 minutes at room temperature 0.38 g of sodium cyanoborohydride were added to the reaction mixture and stirring was continued for 3 hours. After evaporation in vacuo the residue was purified by means of flash-chromatography on silica gel. The fractions containing the desired product were evaporated and the so-obtained free base was converted into the crystalline title compound by treatment with 1 equivalent of HCl in ethyl acetate.

reactant | sodium acetate | 0.52 g | C(C)(=O)[O-].[Na+]
reactant | 1-(benzo[b]furan-7-yl)-piperazine hydrochloride | 6.28 mmol, 1.50 g | Cl.O1C2=C(C=C1)C=CC=C2N2CCNCC2
reactant | sodium cyanoborohydride | 0.38 g | C(#N)[BH3-].[Na+]
reactant | HCl | 1 equivalent | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 1.0 ml | CC(=O)C | C3H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(Benzo[b]furan-7-yl)-4-isopropylpiperazine hydrochloride | Cl.O1C2=C(C=C1)C=CC=C2N2CCN(CC2)C(C)C | InChI=1S/C15H20N2O.ClH/c1-12(2)16-7-9-17(10-8-16)14-5-3-4-13-6-11-18-15(13)14;/h3-6,11-12H,7-10H2,1-2H3;1H
